US09169249B2
Preparation of 5-Allyl-2,2-dimethylpyrrolidine
To a solution of 5,5-dimethyl-1-pyrroline (2.3 g, 23.7 mmol) in anhydrous THF (50 ml) 1.0 M solution of allylmagnesium bromide in diethyl ether (43.3 ml, 47.3 mmol) was added dropwise at 0° C. The reaction mixture was allowed to stir at 0° C. for 1 hour and brought to room temperature and stirred for 3 hours. Analysis of the reaction mixture by LC-MS indicated the completion of the reaction. The reaction mixture was cooled to 0° C. and quenched with 5 ml of 1N aqueous HCl and partitioned with 50 ml of EtOAc. Organic layer was separated and the aqueous layer was worked up with 2×50 ml of EtOAc. Combined organic layers were dried over MgSO4 and concentrated under vacuum gave the product as light yellow oil in 44% yield (1.5 g). The crude product was taken to the next step without further purification.

reactant | 5,5-dimethyl-1-pyrroline | 23.7 mmol, 2.3 g | CC1(CCC=N1)C | C6H11N
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | diethyl ether | 47.3 mmol, 43.3 ml | C(C)OCC | C4H10O
solvent | THF | 1.0 M, 50 ml | C1CCOC1 | C4H8O
product | 5-Allyl-2,2-dimethylpyrrolidine | 44% yield | C(C=C)C1CCC(N1)(C)C | C9H17N
